US05593993
N-(2-(1-Cyclohexenyl)ethyl)-N'-[2-pyridyl]thiourea
A solution of 2-(1-cyclohexenyl)ethyl isothiocyanate (1.67 g, 10 mmol) and 2-aminopyridine (941 mg, 10 mmol) in N-methylpyrrolidinone (20 mL) was heated to 100° C. After 16.5 h, the reaction was cooled to room temperature and poured into ethyl acetate. The organic phase was washed with water (4×) and brine. The organic layer was dried over sodium sulfate, filtered and concentrated. The solid obtained was purified by recrystallization from ethyl acetate to provide 1.31 g of the titled product (50%) as a white crystalline solid:

reactant | 2-(1-cyclohexenyl)ethyl isothiocyanate | 10 mmol, 1.67 g | C1(=CCCCC1)CCN=C=S | C9H13NS
reactant | 2-aminopyridine | 10 mmol, 941 mg | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | N-(2-(1-Cyclohexenyl)ethyl)-N'-[2-pyridyl]thiourea | 1.31 g, 50% | C1(=CCCCC1)CCNC(=S)NC1=NC=CC=C1 | C14H19N3S
